US06815458B2
Reaction-step 1: 4-(4-Triflouromethylbenzylamino)-1-methylpiperidin (50ELH2).
Starting materials: 1-Methyl-4-piperidone (1.13 g, 10.0 mmol, 1.0 eq.), 4-trifluoromethylbenzylamine (1.75 g, 1.0 eq.).

reactant | 1-Methyl-4-piperidone | 10.0 mmol, 1.13 g, 1.0 eq. | CN1CCC(CC1)=O | C6H11NO
reactant | 4-trifluoromethylbenzylamine | 1.75 g, 1.0 eq. | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
product | 4-(4-Triflouromethylbenzylamino)-1-methylpiperidin | FC(C1=CC=C(CNC2CCN(CC2)C)C=C1)(F)F | C14H19F3N2
